US09227930B2
To ethyl cis-1-benzyl-5-fluoro-6-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)-2,3-dihydro-1H-inden-2-ylcarbamate (45.3 mg, 0.088 mmol) in tetrahydrofuran (1 ml) was added lithium aluminium hydride 1M in tetrahydrofuran (0.263 ml, 0.263 mmol) and the reaction mixture was refluxed for 2 h. Cooled down to room temperature and added a mixture of 0.5N potassium hydroxide (1 ml) and water (7 ml), filtered over Celite, washed with tetrahydrofuran and the Celite Filter cake was poured into tetrahydrofuran, refluxed for 30 min, and again filtered over Celite. The combined organic layers were evaporated, re-dissolved in dichloromethane, washed with sodium bicarbonate and brine, dried over magnesium sulfate, filtered and evaporated to obtain a pale yellow oil, that was purified by flash silica gel chromatography on 4 g SiO2-cartridge using 10% methanol in dichloromethane to obtain cis-N-(2-(3-benzyl-6-fluoro-2-(methylamino)-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide as a pale yellow oil. m=14.2 mg (35%)

reactant | ethyl cis-1-benzyl-5-fluoro-6-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)-2,3-dihydro-1H-inden-2-ylcarbamate | 0.088 mmol, 45.3 mg | C(C1=CC=CC=C1)[C@H]1[C@H](CC2=CC(=C(C=C12)OCCNS(=O)(=O)C=1N=CN(C1)C)F)NC(OCC)=O | C25H29FN4O5S
reactant | lithium aluminium hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium hydroxide | 0.5N, 1 ml | [OH-].[K+]
reactant | water | 7 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.263 mmol, 0.263 ml | O1CCCC1 | C4H8O
product | cis-N-(2-(3-benzyl-6-fluoro-2-(methylamino)-2,3-dihydro-1H-inden-5-yloxy)ethyl)-1-methyl-1H-imidazole-4-sulfonamide | C(C1=CC=CC=C1)[C@@H]1[C@@H](CC2=CC(=C(C=C12)OCCNS(=O)(=O)C=1N=CN(C1)C)F)NC | C23H27FN4O3S
